US04127585
4-Hydroxy-N-(5-methyl-3-isoxazolyl)-6H-thieno[2,3-b]thiopyran-5-carboxamide 7,7-dioxide
A mixture of methyl 4-hydroxy-6H-thieno[2,3-b]thiopyran-5-carboxylate 7,7-dioxide (3.1 g, 0.012 mole), 3-amino-5-methylisoxazole (1.5 g, 0.015 mole) and xylene (120 ml) is refluxed for 1.5 hrs. in a Soxhlet apparatus, the thimble of which contains 15 g of Linde type 4A molecular sieve. The mixture is cooled to 5° C. in an ice-bath, and the resulting crystalline precipitate is collected. The filtrate is refluxed for two additional hours and then cooled to give a second crop. The two fractions are combined and recrystallized from CH2Cl2 --CHCl3 mixture to give a off-white crystalline solid (2.2 g, 56%), m.p. 209°-210° C.

reactant | methyl 4-hydroxy-6H-thieno[2,3-b]thiopyran-5-carboxylate 7,7-dioxide | 0.012 mole, 3.1 g | OC=1C2=C(S(CC1C(=O)OC)(=O)=O)SC=C2 | C9H8O5S2
reactant | 3-amino-5-methylisoxazole | 0.015 mole, 1.5 g | NC1=NOC(=C1)C | C4H6N2O
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-N-(5-methyl-3-isoxazolyl)-6H-thieno[2,3-b]thiopyran-5-carboxamide 7,7-dioxide | 2.2 g, 56% | OC=1C2=C(S(CC1C(=O)NC1=NOC(=C1)C)(=O)=O)SC=C2 | C12H10N2O5S2
